US06841549B1
1H NMR (400 MHz, CDCl3) δ ppm; 7.52 (1H, dd, J=2.0, 5.9), 7.84 (1H, J=2.0), 8.12 (1H, J=5.5), 8.13 (1H, S) (3) N1-{4-Chloro-6-[(2-chloro-4-pyridyl)amino]-5-pyrimidinyl}-3-fluorobenzamide
3-Fluorobenzoyl chloride (1.3 mL, 10.7 mmol) was added dropwise to a suspension of N4-(2-chloro-4-pyridyl)-6-chloro-4,5-pyrimidine diamine (2.5 g, 9.8 mmol) in pyridine (50 mL) over 5 minutes in a nitrogen atmosphere at 0 to 5° C., and the mixture was stirred as such for 12 hours. The reaction solution was diluted with water and ethyl acetate (100 mL). The organic layer was washed with 1N hydrochloric acid (×1). After the 1N hydrochloric acid layer was extracted with ethyl acetate (×2), the combined organic layers were washed with a saturated aqueous sodium bicarbonate solution (×1), dried over anhydrous sodium sulfate and concentrated. The residue was suspended in diethyl ether, and the solid was collected by filtration and washed with diethyl ether, to give the title compound (2.3 g, 62%) as a colorless solid.

reactant | 3-Fluorobenzoyl chloride | 10.7 mmol, 1.3 mL | FC=1C=C(C(=O)Cl)C=CC1 | C7H4ClFO
reactant | N4-(2-chloro-4-pyridyl)-6-chloro-4,5-pyrimidine diamine | 9.8 mmol, 2.5 g | ClC1=NC=CC(=C1)NC1=NC=NC(=C1N)Cl | C9H7Cl2N5
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N1-{4-Chloro-6-[(2-chloro-4-pyridyl)amino]-5-pyrimidinyl}-3-fluorobenzamide | 2.3 g, 62% | ClC1=NC=NC(=C1NC(C1=CC(=CC=C1)F)=O)NC1=CC(=NC=C1)Cl | C16H10Cl2FN5O
